US08895733B2
6-[5-(3-Fluoropyridin-2-yl)-1,2,4-oxadiazol-3-yl]-2-N-phenyl-1,3,5-triazine-2,4-diamine
3-Fluoropyridine-2-carboxylic acid (1.75 g, 12.38 mmol) was dissolved in pyridine (15 mL) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (2.74 g, 14.28 mmol) was added. The mixture was stirred at room temperature for 2 h. 4-Amino-N′-hydroxy-6-(phenylamino)-1,3,5-triazine-2-carboximidamide (prepared in an analogous manner to Intermediate 4, 2.33 g, 9.52 mmol) was added and the mixture stirred at room temperature for 16 h. LCMS showed incomplete conversion, so further N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (1.30 g, 6.8 mmol) was added and the mixture stirred at room temperature for 3 h, before being heated to 60 C under nitrogen for 16 h. Pyridine was removed under vacuum and water (100 mL) was added to the residue. The mixture was extracted with EtOAc (100 mL), with the addition of brine (100 mL) to aid separation of an emulsion. The aqueous phase was then extracted with DCM (100 mL), which also formed an emulsion. After separation the aqueous phase was filtered to remove an insoluble gum. The aqueous phase was then further extracted with DCM (2×100 mL). The combined DCM and EtOAc layers were dried over sodium sulfate and concentrated under vacuum to yield a pale orange solid. This was purified by FCC using a gradient of 0-8% MeOH in DCM. The crude product was further purified by trituration with DCM to afford the title compound as a white solid (0.425 g, 13%).

reactant | 3-Fluoropyridine-2-carboxylic acid | 12.38 mmol, 1.75 g | FC=1C(=NC=CC1)C(=O)O | C6H4FNO2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 14.28 mmol, 2.74 g | Cl.CN(CCCN=C=NCC)C
reactant | 4-Amino-N′-hydroxy-6-(phenylamino)-1,3,5-triazine-2-carboximidamide | NC1=NC(=NC(=N1)NC1=CC=CC=C1)C(N)=NO | C10H11N7O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 6.8 mmol, 1.30 g | Cl.CN(CCCN=C=NCC)C
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | 6-[5-(3-Fluoropyridin-2-yl)-1,2,4-oxadiazol-3-yl]-2-N-phenyl-1,3,5-triazine-2,4-diamine | 0.425 g, 13% | FC=1C(=NC=CC1)C1=NC(=NO1)C1=NC(=NC(=N1)NC1=CC=CC=C1)N | C16H11FN8O
